2171-07-06 07:24:00 Physician Resident Progress Note
Chief Complaint: CHF exacerbation
   24 Hour Events:
   Pt placed was given Lasix IV PRN yesterday afternoon. Overnight, had
   drop in UOP to 30cc/hr, given Lasix 80mg IV x 1 at 5am with good
   response in UOP. Over 2L out over 24 hours. Subjectively, pt feels
   better this a.m. Breathing more easily.
   Required CPAP overnight for frequent desats. Switched to Face mask in
   the a.m. Pt c/o discomfort from CPAP mask.
 NON-INVASIVE VENTILATION - START [**2171-7-5**] 11:20 AM
 ULTRASOUND - At [**2171-7-5**] 08:00 PM
   Legs
   - Negative for DVT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-7-6**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-7-6**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 77 (58 - 80) bpm
   BP: 155/54(78) {129/44(67) - 157/123(126)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                     51 mL
                  PO:
                  TF:
   IVF:
                                                                     51 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    675 mL
   Urine:
                                                                  2,000 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,949 mL
                                                                   -675 mL
   Respiratory support
   O2 Delivery Device: CPAP mask overnight
   Ventilator mode: CPAP
   Vt (Spontaneous): 486 (7 - 640) mL
   PS : 0 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 93%
   ABG: 7.44/27/81.[**Numeric Identifier 253**]/19/-3 ([**6-4**] @ 1354)
   Ve: 9.5 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Gen: alert, awake, NAD, breathing comfortably in bed
   HEENT: mmm, EOMI grossly, PERRL, flat JVP
   CV: RRR (soft heart sounds), no m/r/g
   LUNGS: bibasilar crackles
   ABD: soft, NDND, bs+
   EXT: 1+pitting edema in LE bilaterally, R>L, no cyanosis/clubbing
   Labs / Radiology
   185 K/uL
   10.2 g/dL
   158 mg/dL
   4.7 mg/dL
   19 mEq/L
   3.7 mEq/L
   85 mg/dL
   109 mEq/L
   139 mEq/L
   30.4 %
   8.0 K/uL
        [image002.jpg]
   Blood cx x 4- pending
   CE negative x 2
   U/A- negative
   Urine cx- pending
   Urine tox screen- negative
   FeUrea calculated = 63.37% (<35% indicates pre-renal)
   [**2171-7-5**]
   BILATERAL LOWER EXTREMITY ULTRASOUND: Bilateral common femoral,
   superficial
   femoral and popliteal veins were interrogated using grayscale, color
   and
   Doppler son[**Name (NI) 4090**]. Calf veins were also examined. There is normal
   compressibility, flow and augmentation throughout.
   IMPRESSION: No evidence of lower extremity DVT of either leg.
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
   WBC
   8.2
   8.0
   Hct
   28.3
   30.4
   Plt
   180
   185
   Cr
   4.7
   4.7
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:8.7 mg/dL, Mg++:2.4
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Assessment: This is a 70 year-old female with a history of diastolic
   heart failure, CKD who presents with shortness of breath and hypoxia
   and acute on chronic renal failure.
   .
   Plan:
   # Respiratory distress:  Likely secondary to CHF.  Good diuresis with
   IV lasix.  Most likely precipitant is cessation of diuretics, and
   unclear if renal failure preceded this or is a result. Other
   possibility is evolving pneumonia given RLL infiltrate on CXR and
   leukocytosis.  Fluid balance will be challenging due to cardio-renal
   syndrome, underlying chronic kidney disease.  Question underlying
   pulmonary process besides pulmonary overload [**12-29**] CHF.
   - Will check CT chest without contrast to  eval for possible underlying
   pulmonary pathology
   - CE negative x 2
   - Will try to advance diet today if pt
s O2 sats tolerate being off
   face mask
   - Continue Lasix IV PRN hypoxia/ dypsnea. Will try to limit if
   possible, as pt already 2L negative today.
   - Titrate O2 down as tolerated.
   - NIPPV as long as tolerating.
   - continue statin, beta [**Last Name (LF) 368**], [**First Name3 (LF) **], nifedipine, afterload reduction
   - Obtain sputum culture
   - Will start Vancomycin IV  (Day 1) and Levaquin (Day 1)empirically for
   presumed PNA
   .
   # Renal failure: Likely pre-renal [**12-29**] poor forward flow, baseline
   creatinine in the low 3's, currently 5.2. that being said, unable to
   know clearly whether renal function worsened as primary precipitant for
   heart failure secondary to volume overload. Cr has not improved despite
   adequate diuresis, suggesting an underlying renal dysfunction.Monitor
   response of creatinine to diuresis.
   - Renal consulted. Advised to continue Lasix PRN, as elevated Cr
   likely secondary to chronic renal disease vs. pre-renal. Will order Fe
   studies for possible EPO treatment, PTH as pt on home Calcitriol
   treatment, per renal recs.
   - Renal ultrasound with dopplers tomorrow a.m. to eval patency of flow
   to kidneys
   - foley in place
   - strict I/O
   - U/A negative, urine culture pending
   - As pt on Lasix, FeUrea calculated = >35%, suggesting less likely
   pre-renal.
   .
   # AG Metabolic Acidosis: Mild metabolic acidosis is likely in the
   setting of renal failure, but underlying etiology of this is unclear as
   discussed above.
   .
   # Mild Leukocytosis:  Unclear etiology.  No history of localizing
   symptoms. RLL infiltrate could be evolving pneumonia and also in acute
   on chronic renal failure which could be secondary to UTI. Low-grade
   fever to 100.7 this morning.
   - sputum cx if obtainable
   - UA negative, urine cx pending
   - monitor wbc and fever curve
   - Will start Vancomycin IV  (Day 1) and Levaquin (Day 1)empirically for
   presumed PNA
   .
   # DM2: insulin sliding scale while NPO. Once eating can resume standing
   Humalin dosing as she takes at home.
   - Continue gabapentin for pain
   .
   # HTN: Continue metoprolol, nifedipine, Hydralazine. Afterload
   reduction is very important to encourage forward flow. Unfortunately,
   need to avoid ACEI given renal failure.
   .
   # S/p CVA: continue aspirin
   .
   # FEN: Negative ~>2L today with lasix. Monitor strict UOP. Replete
   lytes prn. Will try cardiac/diabetic diet today if pt
s O2 sat
   tolerates being off face mask.
   .
   # Access: PIV's
   .
   # PPx: heparin SC, bowel regimen, no PPI but will start if not eating
   .
   # Code: Full
   .
   # Dispo: ICU until clinically stabilized
   .
   # Comm:  patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-7-5**] 08:58 AM
   20 Gauge - [**2171-7-5**] 08:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-07-06 12:34:00 Physician Attending Progress Note
Chief Complaint: Resp Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2171-7-5**] 11:20 AM
 ULTRASOUND - At [**2171-7-5**] 08:00 PM
   legs
   Stopped Lasix gtts and converted to bolus- UOP dropped off.
   Temp 100.7
   ASA Simvastatin Gabapetin Calcitriol, Colace, SC heparin, Nifedipine,
   Hydralazine,
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-7-6**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-7-6**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 76 (58 - 80) bpm
   BP: 141/52(73) {129/39(64) - 157/123(126)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                     51 mL
                                                                    120 mL
   PO:
                  120 mL
   TF:
   IVF:
                                                                     51 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                  1,255 mL
   Urine:
                                                                  2,000 mL
                                                                  1,255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,949 mL
                                                                 -1,135 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, CPAP mask
   Ventilator mode: CPAP
   Vt (Spontaneous): 486 (7 - 486) mL
   PS : 0 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 13 cmH2O
   SpO2: 93%
   ABG: 7.44/27/81.[**Numeric Identifier 253**]/20/-3
   Ve: 9.5 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished:  scattered rales no
   wheezes
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: Trace
   Neurologic: Attentive, Responds to questions
   Labs / Radiology
   9.5 g/dL
   180 K/uL
   132 mg/dL
   5.2 mg/dL
   20 mEq/L
   4.1 mEq/L
   86 mg/dL
   109 mEq/L
   143 mEq/L
   28.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
   WBC
   8.2
   8.0
   7.9
   Hct
   28.3
   30.4
   28.3
   Plt
   180
   185
   180
   Cr
   4.7
   4.7
   5.2
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   1) Respiratory distress:  pulmonary edema in setting of diastolic heart
   failure and progressive ARF. Seems a bit  better with more aggressive
   diurese but less than we would have hoped. Would change to Venti mask,
   titrate O2 down to sats > 93 % and see if we have made any progress.
   Would favor non contrast Chest CT to assess for interstitial disease or
   infiltrates that are more than simple pulm edema.
   2) Acute on Chronic Renal Failure: time for consultation by nephrology
   given progression of her ARF.
   3) HTN: nifedipine and Toprol and Hydralazine
   3) Anemia: stable
   4) prophylaxis
   -SQ heparin for DVT prophylaxis
   -no indication for GI prophylaxis
   4) Disp
   -full code
   -ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-7-5**] 08:58 AM
   20 Gauge - [**2171-7-5**] 08:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 50

2171-07-07 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    Pt has remained nsr with hr in the 70
s with no ectopy. Lungs still
   have rales
 way up bil. Sao2 has remained 89-95%. Pt has no resp
   distress with sao2 88-89%.
    Pt was changed to n/c 5-6L and tol well for a while then was changed
   to face tent.  Pt was also started on levoflox yesterday for dx of pna.
    Has had no c/o sob or dyspnea. Pt was quite talkative in the evening
   and tol fluids well.
    Cont with antibiotics and monitor sao2. provide o2 as pt requires and
   wean as able.
 BLOOD CULTURED - At [**2171-7-6**] 01:04 PM
 URINE CULTURE - At [**2171-7-6**] 01:05 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-7-6**] 05:19 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-7-6**] 10:00 PM
   Hydralazine - [**2171-7-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-7-7**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 74 (71 - 79) bpm
   BP: 139/55(76) {126/42(64) - 149/69(79)} mmHg
   RR: 23 (16 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    590 mL
                  PO:
                                                                    390 mL
                  TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    435 mL
   Urine:
                                                                  2,075 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,485 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 92%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   9.8 g/dL
   203 mg/dL
   5.7 mg/dL
   19 mEq/L
   3.9 mEq/L
   87 mg/dL
   109 mEq/L
   142 mEq/L
   29.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
                             [**2171-7-7**]  04:47 AM
   WBC
   8.2
   8.0
   7.9
   7.5
   Hct
   28.3
   30.4
   28.3
   29.0
   Plt
   180
   185
   180
   200
   Cr
   4.7
   4.7
   5.2
   5.7
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   203
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:7.9 mg/dL, Mg++:2.3
   mg/dL, PO4:4.5 mg/dL
   Imaging: CT Chest [**2171-7-6**]
   Preliminary Report !! WET READ !!
   Multifocal airspace consolidation with air bronchograms, most severe in
   the
   upper lobes, right more severe than left. There is a moderate right
   pleural effusion and small left pleural effusion with associated
   atelectasis of the adjacent lung. These findings likely reflect
   multi-focal pneumonia with fluid overload. Heart is enlarged with a
   small pericardial effusion and coronary artery calcifications. Several
   enlarged mediastinal lymph nodes are present with paratracheal nodes
   and AP window nodes measuring approx. 1.5cm in short axis. These nodes
   may be reactive in nature. Visualized upper
   abdomen reveals a right renal artery stent and tiny gallstone.
   Microbiology: [**2171-7-5**] BCx X2 NGTD
   [**2171-7-6**] BCx X2 NGTD
   [**2171-7-6**] UCx NGTD
   Assessment and Plan
   Assessment: This is a 70 year-old female with a history of diastolic
   heart failure, CKD who presents with shortness of breath and hypoxia
   and acute on chronic renal failure.
   .
   Plan:
   # Respiratory distress:  Likely secondary to CHF.  Good diuresis with
   IV lasix.  Most likely precipitant is cessation of diuretics, and
   unclear if renal failure preceded this or is a result. Other
   possibility is evolving pneumonia given RLL infiltrate on CXR and
   leukocytosis.  Fluid balance will be challenging due to cardio-renal
   syndrome, underlying chronic kidney disease.  Question underlying
   pulmonary process besides pulmonary overload [**12-29**] CHF.
   - Will check CT chest without contrast to  eval for possible underlying
   pulmonary pathology
   - CE negative x 2
   - Will try to advance diet today if pt
s O2 sats tolerate being off
   face mask
   - Continue Lasix IV PRN hypoxia/ dypsnea. Will try to limit if
   possible, as pt already 2L negative today.
   - Titrate O2 down as tolerated.
   - NIPPV as long as tolerating.
   - continue statin, beta [**Last Name (LF) 368**], [**First Name3 (LF) **], nifedipine, afterload reduction
   - Obtain sputum culture
   - Will start Vancomycin IV  (Day 1) and Levaquin (Day 1)empirically for
   presumed PNA
   .
   # Renal failure: Likely pre-renal [**12-29**] poor forward flow, baseline
   creatinine in the low 3's, currently 5.2. that being said, unable to
   know clearly whether renal function worsened as primary precipitant for
   heart failure secondary to volume overload. Cr has not improved despite
   adequate diuresis, suggesting an underlying renal dysfunction.Monitor
   response of creatinine to diuresis.
   - Renal consulted. Advised to continue Lasix PRN, as elevated Cr
   likely secondary to chronic renal disease vs. pre-renal. Will order Fe
   studies for possible EPO treatment, PTH as pt on home Calcitriol
   treatment, per renal recs.
   - Renal ultrasound with dopplers tomorrow a.m. to eval patency of flow
   to kidneys
   - foley in place
   - strict I/O
   - U/A negative, urine culture pending
   - As pt on Lasix, FeUrea calculated = >35%, suggesting less likely
   pre-renal.
   .
   # AG Metabolic Acidosis: Mild metabolic acidosis is likely in the
   setting of renal failure, but underlying etiology of this is unclear as
   discussed above.
   .
   # Mild Leukocytosis:  Unclear etiology.  No history of localizing
   symptoms. RLL infiltrate could be evolving pneumonia and also in acute
   on chronic renal failure which could be secondary to UTI. Low-grade
   fever to 100.7 this morning.
   - sputum cx if obtainable
   - UA negative, urine cx pending
   - monitor wbc and fever curve
   - Will start Vancomycin IV  (Day 1) and Levaquin (Day 1)empirically for
   presumed PNA
   .
   # DM2: insulin sliding scale while NPO. Once eating can resume standing
   Humalin dosing as she takes at home.
   - Continue gabapentin for pain
   .
   # HTN: Continue metoprolol, nifedipine, Hydralazine. Afterload
   reduction is very important to encourage forward flow. Unfortunately,
   need to avoid ACEI given renal failure.
   .
   # S/p CVA: continue aspirin
   .
   # FEN: Negative ~>2L today with lasix. Monitor strict UOP. Replete
   lytes prn. Will try cardiac/diabetic diet today if pt
s O2 sat
   tolerates being off face mask.
   .
   # Access: PIV's
   .
   # PPx: heparin SC, bowel regimen, no PPI but will start if not eating
   .
   # Code: Full
   .
   # Dispo: ICU until clinically stabilized
   .
   # Comm:  patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-7-5**] 08:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-07-07 10:53:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 F PMH DM2, CRI, diastolic dysfunction admitted with hypoxemia and
   AOCRF.
   24 Hour Events:
 BLOOD CULTURED - At [**2171-7-6**] 01:04 PM
 URINE CULTURE - At [**2171-7-6**] 01:05 PM
   -Chest CT yesterday - multifocal pneumonia with some volume overload
   -Started on vancomycin, levofloxacin
   -Renal consultation
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-7-6**] 05:19 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2171-7-7**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2171-7-7**] 08:21 AM
   Other medications:
   Simvastatin
   ASA
   Lopressor 200 mg
   Gabapentin
   Calcitriol
   Colace
   RISS
   Nifedipine
   Levofloxacin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-7-7**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.3
C (97.4
   HR: 71 (70 - 79) bpm
   BP: 123/45(64) {123/42(62) - 148/69(79)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    590 mL
                                                                    180 mL
   PO:
                                                                    390 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    535 mL
   Urine:
                                                                  2,075 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,485 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   FiO2: 6L + 50%
   SpO2: 93%
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   200 K/uL
   203 mg/dL
   5.7 mg/dL
   19 mEq/L
   3.9 mEq/L
   87 mg/dL
   109 mEq/L
   142 mEq/L
   29.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
                             [**2171-7-7**]  04:47 AM
   WBC
   8.2
   8.0
   7.9
   7.5
   Hct
   28.3
   30.4
   28.3
   29.0
   Plt
   180
   185
   180
   200
   Cr
   4.7
   4.7
   5.2
   5.7
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   203
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:7.9 mg/dL, Mg++:2.3
   mg/dL, PO4:4.5 mg/dL
   Imaging: Chest CT - Multifocal consoldation.  Right > left pleural
   effusions.  Reactive LAD.
   Microbiology: Blood cultures - Negative.
   Urine - Negative.
   Legionella Ag
 Pending.
   Assessment and Plan: 70 F DM2, CRI, diastolic dysfunction admitted with
   hypoxemia and AOCRF with minimal improvement despite diuresis.  Chest
   CT demonstrates multi-focal consolidation in addition to some volume
   overload.  Antibiotic coverage for nosocomial pathogens was initiated
   yesterday.  Would keep BOOP on the differential.  Her creatinine has
   continued to rise and she will likely need RRT in the near future.
   1)       Hypoxemia
 Continue vancomycin by level and renally-dosed
   levofloxacin for nosocomial pneumonia.  She also appears to have some
   volume overload is autodiuresing.  Would hold on further lasix doses at
   this point unless she becomes grossly positive.  Wean oxygen as
   tolerated or SpO2 > 90%.  Follow up cultures.  OOB today. As above if
   hypoxemia persists despite diuresis or eventual HD, increases concern
   for an additonal process such as BOOP.
   2)       Renal failure
 Creatinine up again today.  She has been seen
   by the renal service and will need venous mapping as she is moving
   toward RRT.  We will start renal diet today.  Renal US with dopplers on
   Monday.
   3)       Anemia
 Evidence of iron deficiency.  Will start supplement.
   4)       DM
 RISS.
   5)       HTN
 Controlled on current regimen.
   6)       Dysphagia
 S&S consult on Monday. Taking puree
   ICU Care
   Nutrition: Diabetic, renal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2171-7-5**] 08:58 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: None.
   VAP: N/A
   Comments:
   Communication:  Comments: Patient
   Code status: Full code
   Disposition : ICU for renal failure, resp distress
   Total time spent: 35

2171-07-08 11:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   HPI:
   24 Hour Events:
   No new clinical events overnight.
   No further requirement for non-invasive ventilation.
   Up in chair.  States to feel much improved today, less dyspneic.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-7-7**] 10:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-7-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-7-8**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 85 (58 - 87) bpm
   BP: 132/39(62) {100/37(59) - 132/61(65)} mmHg
   RR: 23 (14 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    720 mL
                                                                    250 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    300 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    380 mL
   Urine:
                                                                    965 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -245 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , Bronchial: , No(t) Wheezes
   : , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal, Intention tremor
   Labs / Radiology
   9.8 g/dL
   199 K/uL
   202 mg/dL
   5.5 mg/dL
   18 mEq/L
   3.9 mEq/L
   87 mg/dL
   110 mEq/L
   142 mEq/L
   28.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
                             [**2171-7-7**]  04:47 AM
                             [**2171-7-8**]  05:07 AM
   WBC
   8.2
   8.0
   7.9
   7.5
   6.2
   Hct
   28.3
   30.4
   28.3
   29.0
   28.7
   Plt
   180
   185
   180
   200
   199
   Cr
   4.7
   4.7
   5.2
   5.7
   5.5
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   203
   202
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:8.1 mg/dL, Mg++:2.4
   mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   70 yof renal failure, and now with respiratory distress and pulmonary
   infiltrates.
   RESPIRATORY DISTRESS -- unclear etiology, but may be attributable to
   CHF (possible diastolic dysfunction).  Less likely pneumonia or immune
   or idiopathic- mediated process.  Continue treatment of CHF, and
   reasonable to continue empirical antibiotics.
   PULMONARY INFILTRATES -- possible pulmonary edema, and now with some
   improvement in clinical symptoms --> suspect improvement related more
   to net diresis, although cannot exclude improvement from
   antimicrobials.
   ACUTE RENAL FAILURE
 No indication for acute dialysis need.
   Attributable to CHF.
   CHRONIC RENAL INSUFFICINCY
 [**Month (only) 60**] be progressing to HD soon.
   NIDDM -- insulin sliding scale
   FLUIDS -- desire net negative 1 L / 24 hrs.
   HTN -- requires multiple medications.  Continue usual meds.
   s/p CVA -- left hemiparesis, stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-7-5**] 08:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2171-07-08 13:29:00 Physician Resident Progress Note
Chief Complaint: 70 y/o female with h/o DHF, CKD, DM2, CVA, presented
   with SOB, hypoxia and acute on chronic renal failure.
   24 Hour Events:
   Patient remained stable on 02 via nasal cannula.  She was diuresed and
   has been tolerating PO.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-7-7**] 10:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-7-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-7-8**] 01:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 85 (58 - 87) bpm
   BP: 132/39(62) {100/37(59) - 132/61(65)} mmHg
   RR: 23 (14 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    720 mL
                                                                    250 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    300 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    380 mL
   Urine:
                                                                    965 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -245 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral at bases)
   Abdominal: Soft, Non-tender
   Extremities: L sided hand tremor
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   199 K/uL
   9.8 g/dL
   202 mg/dL
   5.5 mg/dL
   18 mEq/L
   3.9 mEq/L
   87 mg/dL
   110 mEq/L
   142 mEq/L
   28.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
                             [**2171-7-7**]  04:47 AM
                             [**2171-7-8**]  05:07 AM
   WBC
   8.2
   8.0
   7.9
   7.5
   6.2
   Hct
   28.3
   30.4
   28.3
   29.0
   28.7
   Plt
   180
   185
   180
   200
   199
   Cr
   4.7
   4.7
   5.2
   5.7
   5.5
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   203
   202
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:8.1 mg/dL, Mg++:2.4
   mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Assessment: This is a 70 year-old female with a history of diastolic
   heart failure, CKD who presents with shortness of breath and hypoxia
   and acute on chronic renal failure.
   Plan:
   # Respiratory distress: Likely CHF exacerbation with possible
   pneumonia. Now stable on O2 via NC.  Legionella antigen negative, CE
   negative
   - ECHO to re-evaluate cardiac status
   - repeat CXR
   - Continue diuresis with lasix, goal is  negative 1L today
   - Continue Vancomycin IV  (Day 3) and Levaquin (Day 3) empirically for
   presumed PNA
   - neb treatments
   - chest PT, incensive spirometry, OOB to chair
   - speech and swallow eval
   - Titrate O2 down as tolerated.
   - continue statin, beta [**Last Name (LF) 368**], [**First Name3 (LF) **], nifedipine, afterload reduction
   - Obtain sputum culture if possible (pt has very little cough
   currently)
   # Acute on chronic renal failure: etiology not clear. Baseline
   creatinine 3's, currently 5.5 but trending down.
   - Renal consulted. Recommended started IV iron and Epo yesterday.
   - Renal ultrasound with dopplers
   - strict I/O
   - U/A negative, urine culture pending
   # Mild Leukocytosis:  resolved
   # DM2: RISS for now, patient just started tolerating po and we will
   resume home regimen once pt start eating reliably.
   - Continue gabapentin for pain
   # HTN: Continue metoprolol, nifedipine, Hydralazine. Afterload
   reduction is very important to encourage forward flow.
   -avoid ACEI given renal failure.
   # S/p CVA: continue aspirin
   .
   # FEN: Renal/diabetic diet.
   .
   # Access: PIV's
   .
   # PPx: heparin SC, bowel regimen, no PPI
   .
   # Code: Full
   .
   # Dispo: Floor if patient remains stable on 02 via NC
   .
   # Comm:  patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-7-5**] 08:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-07-09 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   O/N patient desat to 79% on NC, was started on FT 02, given neb
   treatment and 02 sats back up to 92-95%.  Also given 80 IV lasix for
   low uop.  Yesterday had renal u/s and Echo. Echo showed diastolic
   dysfunction with EF >75%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-7-7**] 10:30 AM
   Levofloxacin - [**2171-7-8**] 10:05 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-7-8**] 09:25 PM
   Heparin Sodium (Prophylaxis) - [**2171-7-8**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-7-9**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 84 (63 - 85) bpm
   BP: 122/67(79) {103/39(51) - 140/67(89)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    350 mL
                  PO:
                  TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    540 mL
   Urine:
                                                                    900 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -550 mL
                                                                   -540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   216 K/uL
   10.5 g/dL
   66 mg/dL
   5.3 mg/dL
   19 mEq/L
   4.0 mEq/L
   87 mg/dL
   108 mEq/L
   142 mEq/L
   33.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
                             [**2171-7-7**]  04:47 AM
                             [**2171-7-8**]  05:07 AM
                             [**2171-7-9**]  04:10 AM
   WBC
   8.2
   8.0
   7.9
   7.5
   6.2
   6.1
   Hct
   28.3
   30.4
   28.3
   29.0
   28.7
   33.4
   Plt
   180
   185
   180
   200
   199
   216
   Cr
   4.7
   4.7
   5.2
   5.7
   5.5
   5.3
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   203
   202
   66
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:8.4 mg/dL, Mg++:2.4
   mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   Assessment: This is a 70 year-old female with a history of diastolic
   heart failure, CKD who presents with shortness of breath and hypoxia
   and acute on chronic renal failure.
   Plan:
   # Respiratory distress: Patient was doing much better but did desat
   last night and responded to nebulizer treatment and increasing oxygen.
   02 sats appear to be position dependent as she desats mostly when
   laying down.  Ocerall she is much improved from admission indicating a
   CHF exacerbation and not pneumonia given quick resolution, though
   improvement secondary to antibiotics cannot be excluded.  ECHO
   yesterday showed EF >75% and diastolic dysfunction, so new Left sided
   heart failure is not contributing.   Legionella antigen negative, CE
   negative
   - repeat CXR
   - Continue diuresis with lasix, goal is  negative 1L today
   - Continue Vancomycin IV  (Day [**3-4**]) and Levaquin (Day [**3-4**]) empirically
   for presumed PNA. Vanc dose not given y
day for high trough, awaiting
   vanc level today for dosing
   - continue neb treatments
   - chest PT, incensive spirometry, OOB to chair
   - speech and swallow eval
   - Titrate O2 down as tolerated.
   - continue statin, beta [**Last Name (LF) 368**], [**First Name3 (LF) **], nifedipine, afterload reduction
   - D/C sputum culture as it will not be useful after 4 days of
   antibiotics and patient unable to cough up sputum.
   # Acute on chronic renal failure: etiology not clear. Baseline
   creatinine 3's, currently 5.3 and trending down.
   - Renal consulted. Recommended started IV iron and Epo yesterday.
   - Renal ultrasound yesterday: Will call radiology to ask about interval
   change of renal ultrasound.
   - strict I/O
   - U/A negative, urine culture pending
   # Mild Leukocytosis:  resolved
   # DM2: RISS for now, patient just started tolerating po and we will
   resume home regimen once pt start eating reliably.
   - Continue gabapentin for pain
   # HTN: Has been stable. Continue metoprolol, nifedipine, Hydralazine.
   Afterload reduction is very important to encourage forward flow.  We
   should keep in mind that her SBP may have been running high chronically
   before she comes in(160s), but for now 120s-130s is ok.
   -avoid ACEI given renal failure.
   # S/p CVA: stable exam, continue aspirin
   #Auditory/Visual Hallucinations: Patient reported hearding voices and
   believing in Ghosts.  She reports this has always been true and has
   mentioned it to the nurse before.  These hallucinations can be
   occasionally frightening, but she is not worried about them.
   -Psych C/S
   # FEN: Renal/diabetic diet.
   # Access: PIV's
   # PPx: heparin SC, bowel regimen, no PPI
   # Code: Full
   # Dispo: Floor if patient remains stable on 02 via NC
   # Comm:  patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-7-5**] 08:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-07-09 12:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia
   HPI:
   24 Hour Events:
   Experienced episode of oxygen desaturation last PM, responded to
   increased supplimental oxygen and nebulizer Rx.
   Feels much improved this AM.
   States to hear voices of friends and family members (chronic problem).
   Non-threatening.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-7-7**] 10:30 AM
   Levofloxacin - [**2171-7-8**] 10:05 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-7-8**] 09:25 PM
   Heparin Sodium (Prophylaxis) - [**2171-7-8**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   left hemiparesis, chronic
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-7-9**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 87 (63 - 87) bpm
   BP: 122/51(68) {103/31(51) - 139/67(89)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    350 mL
                                                                    200 mL
   PO:
                  200 mL
   TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    760 mL
   Urine:
                                                                    900 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -550 mL
                                                                   -560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, Movement: Purposeful; left
   hemiparesis, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   216 K/uL
   66 mg/dL
   5.3 mg/dL
   19 mEq/L
   4.0 mEq/L
   87 mg/dL
   108 mEq/L
   142 mEq/L
   33.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
                             [**2171-7-7**]  04:47 AM
                             [**2171-7-8**]  05:07 AM
                             [**2171-7-9**]  04:10 AM
   WBC
   8.2
   8.0
   7.9
   7.5
   6.2
   6.1
   Hct
   28.3
   30.4
   28.3
   29.0
   28.7
   33.4
   Plt
   180
   185
   180
   200
   199
   216
   Cr
   4.7
   4.7
   5.2
   5.7
   5.5
   5.3
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   203
   202
   66
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:8.4 mg/dL, Mg++:2.4
   mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS --   attributed to pulmonary edema.  Improved.
   Wheezing may be
cardiac wheeze
 in setting of CHF.
   CHF -- diastolic dysfunction.  Improving radiographically and
   clinically. Continue current management.
   DIASTOLIC DYSFUNCTION -- likely etiology of pulmonary edema in setting
   of worsening renal failure.  Optimize BP control.
   FLUIDs -- tolerating net negative balance.  Continue to net diurese.
   NUTRITIONAL SUPPORT -- encourage PO
   RENAL FAILURE -- acute on chronic.  Creatitine improving towards
   baseline.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-7-5**] 08:58 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 55 minutes

2171-07-10 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient without desats last PM, continues to do well, diuresed ~1L w/
   80 IV lasix x2.  Repeat renal U/S without interval change.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-7-7**] 10:30 AM
   Levofloxacin - [**2171-7-8**] 10:05 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-7-9**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2171-7-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-7-10**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36
C (96.8
   HR: 80 (72 - 91) bpm
   BP: 155/59(84) {103/31(51) - 160/95(103)} mmHg
   RR: 21 (13 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    750 mL
                  PO:
                                                                    650 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,753 mL
                                                                    320 mL
   Urine:
                                                                  1,753 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,003 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   216 K/uL
   10.5 g/dL
   66 mg/dL
   5.3 mg/dL
   19 mEq/L
   4.0 mEq/L
   87 mg/dL
   108 mEq/L
   142 mEq/L
   33.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
                             [**2171-7-7**]  04:47 AM
                             [**2171-7-8**]  05:07 AM
                             [**2171-7-9**]  04:10 AM
   WBC
   8.2
   8.0
   7.9
   7.5
   6.2
   6.1
   Hct
   28.3
   30.4
   28.3
   29.0
   28.7
   33.4
   Plt
   180
   185
   180
   200
   199
   216
   Cr
   4.7
   4.7
   5.2
   5.7
   5.5
   5.3
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   203
   202
   66
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:8.4 mg/dL, Mg++:2.4
   mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   70 year-old female with a history of diastolic heart failure, CKD who
   presents with shortness of breath and hypoxia and acute on chronic
   renal failure.
   Plan:
   # Respiratory distress: Patient was doing much better but did desat
   last night and responded to nebulizer treatment and increasing oxygen.
    02 sats appear to be position dependent as she desats mostly when
   laying down.  Ocerall she is much improved from admission indicating a
   CHF exacerbation and not pneumonia given quick resolution, though
   improvement secondary to antibiotics cannot be excluded.  ECHO
   yesterday showed EF >75% and diastolic dysfunction, so new Left sided
   heart failure is not contributing.   Legionella antigen negative, CE
   negative
   - repeat CXR
   - Continue diuresis with lasix, goal is  negative 1L today
   - Continue Vancomycin IV  (Day [**3-4**]) and Levaquin (Day [**3-4**]) empirically
   for presumed PNA. Vanc dose not given y
day for high trough, awaiting
   vanc level today for dosing
   - continue neb treatments
   - chest PT, incensive spirometry, OOB to chair
   - speech and swallow eval
   - Titrate O2 down as tolerated.
   - continue statin, beta [**Last Name (LF) 368**], [**First Name3 (LF) **], nifedipine, afterload reduction
   - D/C sputum culture as it will not be useful after 4 days of
   antibiotics and patient unable to cough up sputum.
   # Acute on chronic renal failure: etiology not clear. Baseline
   creatinine 3's, currently 5.3 and trending down.
   - Renal consulted. Recommended started IV iron and Epo yesterday.
   - Renal ultrasound yesterday: Will call radiology to ask about interval
   change of renal ultrasound.
   - strict I/O
   - U/A negative, urine culture pending
   # Mild Leukocytosis:  resolved
   # DM2: RISS for now, patient just started tolerating po and we will
   resume home regimen once pt start eating reliably.
   - Continue gabapentin for pain
   # HTN: Has been stable. Continue metoprolol, nifedipine, Hydralazine.
   Afterload reduction is very important to encourage forward flow.  We
   should keep in mind that her SBP may have been running high chronically
   before she comes in(160s), but for now 120s-130s is ok.
   -avoid ACEI given renal failure.
   # S/p CVA: stable exam, continue aspirin
   #Auditory/Visual Hallucinations: Patient reported hearding voices and
   believing in Ghosts.  She reports this has always been true and has
   mentioned it to the nurse before.  These hallucinations can be
   occasionally frightening, but she is not worried about them.
   -Psych C/S
   # FEN: Renal/diabetic diet.
   # Access: PIV's
   # PPx: heparin SC, bowel regimen, no PPI
   # Code: Full
   # Dispo: Floor if patient remains stable on 02 via NC
   # Comm:  patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-7-9**] 12:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-07-10 13:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia.
   HPI:
   24 Hour Events:
   Overall, improved.
   Denies
   Experienced single transient desaturation last PM (89%), resolved
   spontaneously.  Maintaining adequate SaO2 with nasal cannula alone.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2171-7-8**] 10:05 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-7-9**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2171-7-10**] 08:00 AM
   Hydralazine - [**2171-7-10**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**11-28**] Minimal
   Pain location: Right foot, chronic
   Flowsheet Data as of  [**2171-7-10**] 01:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (72 - 88) bpm
   BP: 155/64(87) {103/47(60) - 171/95(103)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    750 mL
                                                                    480 mL
   PO:
                                                                    650 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,753 mL
                                                                  1,000 mL
   Urine:
                                                                  1,753 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,003 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, left paresis
   Labs / Radiology
   9.5 g/dL
   218 K/uL
   72 mg/dL
   5.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   87 mg/dL
   111 mEq/L
   146 mEq/L
   29.0 %
   6.8 K/uL
         [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
                             [**2171-7-7**]  04:47 AM
                             [**2171-7-8**]  05:07 AM
                             [**2171-7-9**]  04:10 AM
                             [**2171-7-10**]  06:23 AM
   WBC
   8.2
   8.0
   7.9
   7.5
   6.2
   6.1
   6.8
   Hct
   28.3
   30.4
   28.3
   29.0
   28.7
   33.4
   29.0
   Plt
   180
   185
   180
   200
   199
   216
   218
   Cr
   4.7
   4.7
   5.2
   5.7
   5.5
   5.3
   5.6
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   203
   202
   66
   72
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Pulmonary edema (CHF; diasolic dysfunction)
   RESPIRATORY DISTRESS -- continues gradual improvement.  Attributed to
   pulmonary edema in setting of worsening renal function in context of
   diastolic dysfunction.  [**Month (only) 60**] be component of infection (treat
   empirically x 7 days)
   RENAL FAILURE -- acute on chronic.  Creatitine appears to have
   plateaued, may be new baseline.  Likely to require dialysis in near
   future.
   FLUIDs -- overloaded.  Desire net negative.  Monitor I/O.
   HTN -- continue medications.  Transition to PO.
   NUTRITIONAL SUPPORT -- PO.
   s/p CVA, remote -- stable.  PT consult.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2171-7-9**] 12:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 55 minutes

2171-07-10 13:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient with single desat to 89 at 0300, otherwise satting >93 % on 6L
   NC.  Diuresed well ~1L with 80 IV lasix x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2171-7-8**] 10:05 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-7-10**] 08:00 AM
   Hydralazine - [**2171-7-10**] 12:00 PM
   Furosemide (Lasix) - [**2171-7-10**] 01:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-7-10**] 01:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 84 (72 - 87) bpm
   BP: 134/42(67) {120/42(64) - 171/95(103)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    750 mL
                                                                    600 mL
   PO:
                                                                    650 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,753 mL
                                                                  1,060 mL
   Urine:
                                                                  1,753 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,003 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal, Absent), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   9.5 g/dL
   72 mg/dL
   5.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   87 mg/dL
   111 mEq/L
   146 mEq/L
   29.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2171-7-5**]  07:10 AM
                             [**2171-7-5**]  01:08 PM
                             [**2171-7-5**]  01:54 PM
                             [**2171-7-5**]  08:19 PM
                             [**2171-7-6**]  06:02 AM
                             [**2171-7-7**]  04:47 AM
                             [**2171-7-8**]  05:07 AM
                             [**2171-7-9**]  04:10 AM
                             [**2171-7-10**]  06:23 AM
   WBC
   8.2
   8.0
   7.9
   7.5
   6.2
   6.1
   6.8
   Hct
   28.3
   30.4
   28.3
   29.0
   28.7
   33.4
   29.0
   Plt
   180
   185
   180
   200
   199
   216
   218
   Cr
   4.7
   4.7
   5.2
   5.7
   5.5
   5.3
   5.6
   TropT
   0.03
   TCO2
   20
   19
   Glucose
   158
   132
   203
   202
   66
   72
   Other labs: CK / CKMB / Troponin-T:73/3/0.03, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Assessment: This is a 70 year-old female with a history of diastolic
   heart failure, CKD who presents with shortness of breath and hypoxia
   and acute on chronic renal failure.
   Plan:
   # Respiratory distress: Patient was doing much with minimal desats last
   night.  Overall she is much improved from admission indicating a CHF
   exacerbation and not pneumonia given quick resolution, though
   improvement secondary to antibiotics cannot be excluded.  CXR this AM
   is supine and likely represents layering effusion rather than worsening
   pulm edema ECHO yesterday showed EF >75% and diastolic dysfunction, so
   new Left sided heart failure is not contributing.   Legionella antigen
   negative, CE negative
   - repeat CXR
   - Continue diuresis with lasix, goal is  negative 1L today
   - Continue Vancomycin IV  (Day [**3-4**]) and Levaquin (Day [**3-4**]) empirically
   for presumed PNA. Vanc dose not given y
day for high trough, awaiting
   vanc level today for dosing
   - continue neb treatments
   - chest PT, incensive spirometry, OOB to chair
   - speech and swallow eval
   - Titrate O2 down as tolerated.
   - continue statin, beta [**Last Name (LF) 368**], [**First Name3 (LF) **], nifedipine, afterload reduction
   - D/C sputum culture as it will not be useful after 4 days of
   antibiotics and patient unable to cough up sputum.
   # Acute on chronic renal failure: etiology not clear. Baseline
   creatinine 3's, currently 5.3 and trending down.
   - Renal consulted. Recommended started IV iron and Epo yesterday.
   - Renal ultrasound yesterday: Will call radiology to ask about interval
   change of renal ultrasound.
   - strict I/O
   - U/A negative, urine culture pending
   # Mild Leukocytosis:  resolved
   # DM2: RISS for now, patient just started tolerating po and we will
   resume home regimen once pt start eating reliably.
   - Continue gabapentin for pain
   # HTN: Has been stable. Continue metoprolol, nifedipine, Hydralazine.
   Afterload reduction is very important to encourage forward flow.  We
   should keep in mind that her SBP may have been running high chronically
   before she comes in(160s), but for now 120s-130s is ok.
   -avoid ACEI given renal failure.
   # S/p CVA: stable exam, continue aspirin
   #Auditory/Visual Hallucinations: Patient reported hearding voices and
   believing in Ghosts.  She reports this has always been true and has
   mentioned it to the nurse before.  These hallucinations can be
   occasionally frightening, but she is not worried about them.
   -Psych C/S
   # FEN: Renal/diabetic diet.
   # Access: PIV's
   # PPx: heparin SC, bowel regimen, no PPI
   # Code: Full
   # Dispo: Floor if patient remains stable on 02 via NC
   # Comm:  patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-7-9**] 12:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: